* PEX produced on Sa 12. Sep 18:25:12 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from high_th_inverter_pex.ext - technology: ihp-sg13cmos5l

.subckt high_th_inverter_pex VDD vin vout VSS
X0 VSS.t2 vin vout VSS.t1 sg13_hv_nmos ad=0.34p pd=2.68u as=0.19p ps=1.38u w=1u l=0.45u
X1 vout vin VSS.t0 VSS sg13_hv_nmos ad=0.19p pd=1.38u as=0.34p ps=2.68u w=1u l=0.45u
X2 vout vin VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X3 VDD vin vout VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
R0 VSS VSS.t1 66.0202
R1 VSS VSS.t0 6.01723
R2 VSS VSS.t2 5.84591
C0 vin vout 0.88349f
C1 VDD vin 1.69857f
C2 VDD vout 2.86511f
C3 vout VSS 1.77541f
C4 VDD VSS 1.17002f
C5 VSS.t2 VSS 0.49765f
.ends

