* PEX produced on Sa 12. Sep 17:07:06 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from hv_inverter_0u3_pex.ext - technology: ihp-sg13cmos5l

.subckt hv_inverter_0u3_pex VDD in out VSS
X0 out in VSS VSS.t0 sg13_hv_nmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.45u
X1 out in VDD VDD sg13_hv_pmos ad=0.102p pd=1.28u as=0.102p ps=1.28u w=0.3u l=0.4u
R0 VSS VSS.t0 0.802561
C0 in VDD 0.27021f
C1 out in 0.51768f
C2 out VDD 0.16195f
C3 out VSS 0.49698f
C4 VDD VSS 0.59712f
.ends

