* PEX produced on Sa 12. Sep 16:57:57 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from hv_inverter_6u5_pex.ext - technology: ihp-sg13cmos5l

.subckt hv_inverter_6u5_pex VDD in out VSS
X0 out in VDD VDD sg13_hv_pmos ad=2.21p pd=13.68u as=2.21p ps=13.68u w=6.5u l=0.4u
X1 out in VSS.t1 VSS.t0 sg13_hv_nmos ad=0.68p pd=4.68u as=0.68p ps=4.68u w=2u l=0.45u
R0 VSS.t0 VSS.n0 95.9854
R1 VSS.n0 VSS 0.161612
R2 VSS.t1 VSS.n0 2.84282
C0 in out 0.74437f
C1 VDD out 1.37991f
C2 in VDD 0.7209f
C3 out VSS 1.33872f
C4 VDD VSS 1.27455f
.ends

